US05463073
Methyl 2,3-dihydro-4-methyl-2-thioxothieno[3,4-d]-imidazole-6-carboxylate
A mixture of methyl 3,4-diamino-2-methylthiophene-5-carboxylate (1.0 g) and N,N'-thiocarbonyldiimidazole (1.1 g) in DMF (5 ml) was stirred at 50° C. for one hour. To the reaction mixture was added water to give crystals. Recrystallization from DMF-water afforded colorless prisms (1.2 g, quantitatively), m.p. 285°-288° C. (dec.)

reactant | methyl 3,4-diamino-2-methylthiophene-5-carboxylate | 1.0 g | NC1=C(SC(=C1N)C(=O)OC)C | C7H10N2O2S
reactant | N,N'-thiocarbonyldiimidazole | 1.1 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Methyl 2,3-dihydro-4-methyl-2-thioxothieno[3,4-d]-imidazole-6-carboxylate | CC=1SC(=C2NC(NC21)=S)C(=O)OC | C8H8N2O2S2
